US08877779B2
(R)-1-(5-Methyl-1,2,3,4-tetrahydronaphthalen-1-yl)piperidin-4-one (1.84 g) was dissolved in dichloroethane (55 ml), and 1,2-phenylenediamine (1.23 g) was added. To the solution were added sodium triacetoxyborohydride (3.61 g) and acetic acid (0.97 ml). The mixture was stirred at room temperature for 24 hr, alkalified with saturated sodium hydrogen carbonate, and extracted with chloroform. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give (R)-N-[1-(5-methyl-1,2,3,4-tetrahydronaphthalen-1-yl)piperidin-4-yl]-benzene-1,2-diamine (1.83 g) as a pale-brown solid.

reactant | (R)-1-(5-Methyl-1,2,3,4-tetrahydronaphthalen-1-yl)piperidin-4-one | 1.84 g | CC1=C2CCC[C@H](C2=CC=C1)N1CCC(CC1)=O | C16H21NO
reactant | 1,2-phenylenediamine | 1.23 g | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | sodium triacetoxyborohydride | 3.61 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloroethane | 55 ml | ClC(C)Cl | C2H4Cl2
solvent | acetic acid | 0.97 ml | C(C)(=O)O | C2H4O2
product | (R)-N-[1-(5-methyl-1,2,3,4-tetrahydronaphthalen-1-yl)piperidin-4-yl]-benzene-1,2-diamine | 1.83 g | CC1=C2CCC[C@H](C2=CC=C1)N1CCC(CC1)NC=1C(=CC=CC1)N | C22H29N3
